US08426604B2
A. 2-(4-Methyl-3-trifluoromethyl-phenyl)-propan-2-ol
To a solution of 4-Bromo-1-methyl-2-trifluoromethyl-benzene (3.4 g, 14.2 mmol) in THF was added n-BuLi at −78° C. After the reaction mixture was stirred at −78° C. for 30 minutes, dry acetone was slowly added. The resulting content was maintained at −78° C. for 3 hours and slowly warmed up to RT overnight. The reaction mixture was then partitioned between ethyl acetate and water. The ethyl acetate layer was then washed with brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude oil. The crude solid was purified via flash chromatography (15% EtOAc in n-hexane) yielded the title compound as an oil (2.7 g, 86%)

reactant | 4-Bromo-1-methyl-2-trifluoromethyl-benzene | 14.2 mmol, 3.4 g | BrC1=CC(=C(C=C1)C)C(F)(F)F | C8H6BrF3
reactant | n-BuLi | [Li]CCCC
reactant | acetone | CC(=O)C | C3H6O
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-Methyl-3-trifluoromethyl-phenyl)-propan-2-ol | 2.7 g, 86% | CC1=C(C=C(C=C1)C(C)(C)O)C(F)(F)F | C11H13F3O
